US04293694
2 g of ethyl 2-fluoro-7a,8,9,10,11,11a-hexahydro-4-oxo-4H-pyrido[3,2,1-jk]carbazol-5-carboxylate was dissolved in 80 ml of methanol, and 5 ml of hydrazine hydrate was added thereto. The mixture was then heated while refluxing. The precipitated yellow needle crystals were separated by filtration, and recrystallized from ethanol to obtain 1.7 g of 2-fluoro-7a,8,9,10,11,11a-hexahydro-4-oxo-4H-pyrido[3,2,1-jk]carbazol-5-carbohydrazide monohydrate.

reactant | ethyl 2-fluoro-7a,8,9,10,11,11a-hexahydro-4-oxo-4H-pyrido[3,2,1-jk]carbazol-5-carboxylate | 2 g | FC=1C=C2C3CCCCC3N3C2=C(C1)C(C(=C3)C(=O)OCC)=O | C18H18FNO3
reactant | hydrazine hydrate | 5 ml | O.NN
solvent | methanol | 80 ml | CO | CH4O
product | 2-fluoro-7a,8,9,10,11,11a-hexahydro-4-oxo-4H-pyrido[3,2,1-jk]carbazol-5-carbohydrazide monohydrate | 1.7 g | O.FC=1C=C2C3CCCCC3N3C2=C(C1)C(C(=C3)C(=O)NN)=O | InChI=1S/C16H16FN3O2.H2O/c17-8-5-10-9-3-1-2-4-13(9)20-7-12(16(22)19-18)15(21)11(6-8)14(10)20;/h5-7,9,13H,1-4,18H2,(H,19,22);1H2
